** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/d2s_top/d2s_top.sch
**.subckt d2s_top VOP1,VOP2,VOP3,VOP4 VON1,VON2,VON3,VON4 VBN DUMMY1,DUMMY2,DUMMY3,DUMMY4 CK0 CK90 CK180 CK270 AVDD AVSS
*.ipin VOP1,VOP2,VOP3,VOP4
*.ipin VON1,VON2,VON3,VON4
*.ipin VBN
*.opin DUMMY1,DUMMY2,DUMMY3,DUMMY4
*.opin CK0
*.opin CK90
*.opin CK180
*.opin CK270
*.iopin AVDD
*.iopin AVSS
x1 AVDD AVSS VON1 VOP1 VBN net8 d2s_converter
x2 AVDD AVSS VON3 VOP3 VBN net1 d2s_converter
x9 AVDD net8 CK0 AVSS inv
x10 AVDD net1 CK90 AVSS inv
x3 AVDD AVSS VOP1 VON1 VBN net2 d2s_converter
x4 AVDD net2 CK180 AVSS inv
x5 AVDD AVSS VOP3 VON3 VBN net3 d2s_converter
x6 AVDD net3 CK270 AVSS inv
x7 AVDD AVSS VON2 VOP2 VBN net7 d2s_converter
x8 AVDD AVSS VON4 VOP4 VBN net4 d2s_converter
x11 AVDD net7 DUMMY1 AVSS inv
x12 AVDD net4 DUMMY2 AVSS inv
x13 AVDD AVSS VOP2 VON2 VBN net5 d2s_converter
x14 AVDD net5 DUMMY3 AVSS inv
x15 AVDD AVSS VOP4 VON4 VBN net6 d2s_converter
x16 AVDD net6 DUMMY4 AVSS inv
**.ends

* expanding   symbol:  libs/core_analog/d2s_converter/d2s_converter.sym # of pins=6
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/d2s_converter/d2s_converter.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/d2s_converter/d2s_converter.sch
.subckt d2s_converter VDD VSS VIN VIP VBN VO
*.iopin VDD
*.iopin VSS
*.ipin VIN
*.ipin VIP
*.opin VO
*.ipin VBN
XM2 net2 VIN net1 VSS nfet_03v3 L=0.3u W=15u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 VOP VIP net1 VSS nfet_03v3 L=0.3u W=15u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 net2 net2 VDD VDD pfet_03v3 L=0.3u W=11u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 VOP net2 VDD VDD pfet_03v3 L=0.3u W=11u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM7 net4 VIP net3 VSS nfet_03v3 L=0.3u W=15u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM8 VON VIN net3 VSS nfet_03v3 L=0.3u W=15u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM9 net4 net4 VDD VDD pfet_03v3 L=0.3u W=11u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM10 VON net4 VDD VDD pfet_03v3 L=0.3u W=11u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM11 net5 net5 VSS VSS nfet_03v3 L=0.3u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM12 VO net5 VSS VSS nfet_03v3 L=0.3u W=12u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM13 net5 VOP VDD VDD pfet_03v3 L=0.3u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM14 VO VON VDD VDD pfet_03v3 L=0.3u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 net3 VBN VSS VSS nfet_03v3 L=0.5u W=11.25u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
XM1 net1 VBN VSS VSS nfet_03v3 L=0.5u W=11.25u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=8
.ends


* expanding   symbol:  libs/core_analog/inv/inv.sym # of pins=4
** sym_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/inv/inv.sym
** sch_path: /foss/designs/synchronos-chipathon-2026/designs/libs/core_analog/inv/inv.sch
.subckt inv AVDD IN OUT AVSS
*.ipin IN
*.iopin AVDD
*.iopin AVSS
*.opin OUT
XM1 OUT IN AVDD AVDD pfet_03v3 L=0.28u W=0.9u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 OUT IN AVSS AVSS nfet_03v3 L=0.28u W=0.3u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
